US07033564B2
N,N′-diisopropylcarbodiimide (0.15 mL, 1.0 mmol) was added to the solution of LiAlHSeH (1.0 mmol) prepared as described above in Example One. The reaction mixture was stirred at 0° C. for one hour. The mixture was extracted with diethyl ether and washed with saturated NaCl solution. The organic layer was dried over sodium sulfate and evaporated to dryness. The residue was purified by flash chromatography on silica gel with dichloromethane:n-hexane (40:1) to give 0.13 grams (62%) N,N′-diisopropylselenourea as a white crystal; mp 142.6–148.2° C.; C7H16N2Se; IR (KBr) 1515, 1570, 3195, 3246 cm−1; 1H NMR (CDCl3) δ 1.19 (12H, d, J=6.4 Hz, CH3), 4.21 (2H, br s), 6.10 (2H, br s); 13C NMR (CDCl3) δ 22.4, 47.9,176.2; MS (EI): m/z=208 [M+]; HRMS: m/z=208.0478 calcd for C7H16N2Se, found 208.0503.

reactant | N,N′-diisopropylcarbodiimide | 1.0 mmol, 0.15 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | LiAlHSeH | 1.0 mmol | [Li][AlH][SeH]
product | N,N′-diisopropylselenourea | 0.13 grams, 62% | C(C)(C)NC(=[Se])NC(C)C | C7H16N2Se
